US05492803
11-Bromoundecan-1,2-diol (2.65 g) was dissolved in 2,2-dimethoxypropane (10 mL) and acetone (20 mL) which had been dried over anhydrous K2CO3 for 1 hour. Toluene sulfonic acid (0.18 g) was added and the reaction stirred at room temperature for 19 hours. Solid K2CO3 was added and the mixture was stirred for 30 minutes. The solid was filtered off and the solvent evaporated. The product (11-bromoundecan-1,2-diol acetonide) was isolated in 79% yield (2.42 g) by flash chromatography on Sio2 with CH2Cl2.

reactant | 11-Bromoundecan-1,2-diol | 2.65 g | BrCCCCCCCCCC(CO)O | C11H23BrO2
solvent | 2,2-dimethoxypropane | 10 mL | COC(C)(C)OC | C5H12O2
product | 11-bromoundecan-1,2-diol acetonide | 79% yield | [CH2-]C(=O)C.BrCCCCCCCCCC(CO)O | InChI=1S/C11H23BrO2.C3H5O/c12-9-7-5-3-1-2-4-6-8-11(14)10-13;1-3(2)4/h11,13-14H,1-10H2;1H2,2H3/q;-1
